US08912188B2
To a solution of methyl 2-(4-fluorophenyl)-3-(4-(methylsulfonyl)piperazin-1-yl)quinoxaline-6-carboxylate (100 mg, 0.22 mmol) in methanol (10 ml) was added NaOH (36 mg, 0.9 mmol) and water (1 ml). The resulting solution was stirred overnight at room temperature and concentrated in vacuo. The residue was dissolved in water (15 ml) and adjusted to pH 5 with hydrochloric acid (1N). The solids were collected by filtration to afford 2-(4-fluorophenyl)-3-(4-(methylsulfonyl)piperazin-1-yl)quinoxaline-6-carboxylic acid as a yellow solid (25.0 mg, 25%).

reactant | methyl 2-(4-fluorophenyl)-3-(4-(methylsulfonyl)piperazin-1-yl)quinoxaline-6-carboxylate | 0.22 mmol, 100 mg | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1CCN(CC1)S(=O)(=O)C)C(=O)OC | C21H21FN4O4S
reactant | NaOH | 0.9 mmol, 36 mg | [OH-].[Na+]
reactant | water | 1 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 2-(4-fluorophenyl)-3-(4-(methylsulfonyl)piperazin-1-yl)quinoxaline-6-carboxylic acid | 25.0 mg, 25% | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1CCN(CC1)S(=O)(=O)C)C(=O)O | C20H19FN4O4S
